US09388189B2
N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide
N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide (30 mg, 0.03 mmol, 85% purity) was treated with trifluoroacetic acid (600 μl, 7.79 mmol) and a solution of ammonia (7N in methanol, 600 μl, 4.20 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 23 mg (93% yield, 85% purity) of the title compound.

reactant | N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide | 0.03 mmol, 30 mg | COC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)N(C)C | C36H45N9O5SSi
reactant | trifluoroacetic acid | 7.79 mmol, 600 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 4.20 mmol, 7N, 600 μl | N | H3N
product | N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide | 93% yield | COC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)N(C)C | C30H31N9O4S
